US04254116
5,5-Dimethyl-8-iso-propyl-10-[4-(piperidino)butyryloxy]-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride is prepared according to the method of Example 29 by reacting equimolar quantities of 5,5-dimethyl-10-hydroxy-8-iso-propyl-5H-[1]benzopyrano[3,4-d]pyridine and γ-piperidinobutyric acid hydrochloride in the presence of dicyclohexyl carbodiimide.

reactant | 5,5-dimethyl-10-hydroxy-8-iso-propyl-5H-[1]benzopyrano[3,4-d]pyridine | CC1(OC2=C(C(=CC(=C2)C(C)C)O)C=2C1=CC=NC2)C | C17H19NO2
reactant | γ-piperidinobutyric acid hydrochloride | Cl.N1(CCCCC1)CCCC(=O)O
reactant | dicyclohexyl carbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 5,5-Dimethyl-8-iso-propyl-10-[4-(piperidino)butyryloxy]-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride | Cl.CC1(OC2=C(C(=CC(=C2)C(C)C)OC(CCCN2CCCCC2)=O)C=2C1=CC=NC2)C | InChI=1S/C26H34N2O3.ClH/c1-18(2)19-15-22(30-24(29)9-8-14-28-12-6-5-7-13-28)25-20-17-27-11-10-21(20)26(3,4)31-23(25)16-19;/h10-11,15-18H,5-9,12-14H2,1-4H3;1H
